US05185446
To a solution of 2-Amino-6,6-dicarboethoxy-5,6,7,8-tetrahydro-4(3H)-quinazolinone (75 g) in acetic acid (250 mL) at reflux was added a solution of sodium nitrite (75 g) in water (100 mL) in a dropwise fashion over a period of 45 min. The solution was cooled and the solvent removed in vacuo. The subsequent addition of 300 mL of water precipitated a solid which was collected and dried to yield 6,6-Dicarboethoxy-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione.

reactant | 2-Amino-6,6-dicarboethoxy-5,6,7,8-tetrahydro-4(3H)-quinazolinone | 75 g | NC1=NC=2CCC(CC2C(N1)=O)(C(=O)OCC)C(=O)OCC | C14H19N3O5
reactant | sodium nitrite | 75 g | N(=O)[O-].[Na+]
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 6,6-Dicarboethoxy-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | C(=O)(OCC)C1(CC=2C(NC(NC2CC1)=O)=O)C(=O)OCC | C14H18N2O6
